US04948887
(2) 2-chloro-3-hydroxymethyl-4-methanesulfonylbenzoic acid
6 ml of an aqueous solution containing 1.3 g of sodium hydroxide (93%), was added to 3.9 g of methyl 3-acetoxymethyl-2-chloro-4-methanesulfonylbenzoate and 100 ml of methanol. The mixture was stirred for 30 minutes at room temperature. 50 ml of water was added thereto, and methanol was distilled off under reduced pressure. Then, the reaction mixture was acidified with hydrochloric acid and extracted with chloroform. The extract was concentrated to dryness to obtain 1.3 g of the desired product. Melting point: 240°-245° C.

reactant | sodium hydroxide | 1.3 g | [OH-].[Na+]
reactant | methyl 3-acetoxymethyl-2-chloro-4-methanesulfonylbenzoate | 3.9 g | C(C)(=O)OCC=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)Cl | C12H13ClO6S
reactant | methanol | 100 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 2-chloro-3-hydroxymethyl-4-methanesulfonylbenzoic acid | 1.3 g | ClC1=C(C(=O)O)C=CC(=C1CO)S(=O)(=O)C | C9H9ClO5S
